US08012956B2
Methyl 3-(methyloxy)-2-prop-2-en-1-ylbenzoate (100 mg, 0.48 mmol) in methanol (2 mL) was hydrogenated over 5% palladium on carbon for 15 h under atmospheric pressure. The reaction mixture was filtered and 35% aqueous potassium hydroxide (1 mL) was added. The mixture was refluxed for 1 h and then concentrated. The pH was adjusted to 2 with 6N HCl. The precipitate was filtered, washed with water and dried to give 3-(methyloxy)-2-propylbenzoic acid (35 mg, 38% yield). MS (EI) for C11H14O3: 193 (M−H)

reactant | Methyl 3-(methyloxy)-2-prop-2-en-1-ylbenzoate | 0.48 mmol, 100 mg | COC=1C(=C(C(=O)OC)C=CC1)CC=C | C12H14O3
solvent | methanol | 2 mL | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 3-(methyloxy)-2-propylbenzoic acid | 35 mg, 38% yield | COC=1C(=C(C(=O)O)C=CC1)CCC | C11H14O3
